US07371769B2
b) Preparation of 3-[2-[4-(1H-indol-3-yl)-1,2,3,6-tetrahydropyridin-1-yl]-ethyl]-2,9-dimethyl-4H-pyrido[1,2-a]pyrimidin-4-one.
A solution of 3-(1,2,3,6-tetrahydropyridin-4-yl)indole (25 g, 0.126 mol), 3-(2-chloroethyl)-2,9-dimethyl-4H-pyrido[1,2-a]pyrimidin-4-one (33 g, 0.139 mol) and potassium carbonate (17.5 g, 0.127 mol) in acetonitrile (500 ml) and water (100 ml) was heated under reflux for 18 h. After cooling the precipitate was collected and washed with water, isopropyl alcohol and petroleum ether respectively. Yield 38 g (76%) of a pale yellow solid. M.p.: 210-212° C.

reactant | 3-(1,2,3,6-tetrahydropyridin-4-yl)indole | 0.126 mol, 25 g | N1CCC(=CC1)C1=CNC2=CC=CC=C12 | C13H14N2
reactant | 3-(2-chloroethyl)-2,9-dimethyl-4H-pyrido[1,2-a]pyrimidin-4-one | 0.139 mol, 33 g | ClCCC1=C(N=C2N(C1=O)C=CC=C2C)C | C12H13ClN2O
reactant | potassium carbonate | 0.127 mol, 17.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
solvent | water | 100 ml | O | H2O
product | 3-[2-[4-(1H-indol-3-yl)-1,2,3,6-tetrahydropyridin-1-yl]-ethyl]-2,9-dimethyl-4H-pyrido[1,2-a]pyrimidin-4-one | N1C=C(C2=CC=CC=C12)C=1CCN(CC1)CCC1=C(N=C2N(C1=O)C=CC=C2C)C | C25H26N4O
